US08669266B2
(i) 4-[(S)-2-Amino-4-(1-methyl-1H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate
To a solution of 315 mg 4-[(S)-2-tert-Butoxycarbonylamino-4-(1-methyl-1H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester in 5 ml dichloromethane were added 0.5 ml TFA. After 12 h stirring at RT the solvents were removed and the residue was codistilled twice with toluene. Yield: 0.41 g.

reactant | 4-[(S)-2-tert-Butoxycarbonylamino-4-(1-methyl-1H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester | 315 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC1=NN=NN1C)NC(=O)OC(C)(C)C)=O | C20H35N7O5
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[(S)-2-Amino-4-(1-methyl-1H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC1=NN=NN1C)N)=O | C15H27N7O3
